US20010020034A1
3-(2,6-Difluoro-4-methyl-benzyloxy)-5-{3-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-ureido} -isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 2-(1-methyl-pyrrolidin-2-yl)-ethylamine by the procedure analogous to Example 1. MS (APCl, m/z): 454 [M+H]+.

reactant | [4-carbamoyl-3-(2,6-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C=C1F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 2-(1-methyl-pyrrolidin-2-yl)-ethylamine | CN1C(CCC1)CCN | C7H16N2
product | 3-(2,6-Difluoro-4-methyl-benzyloxy)-5-{3-[2-(1-methyl-pyrrolidin-2-yl)-ethyl]-ureido} -isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCC2N(CCC2)C)C(=CC(=C1)C)F | C20H25F2N5O3S
